US07550456B2
In an analogous manner to Example 1′ step 1, tert-butyl (1-{(1-hydroxycyclohexyl)[3-(phenoxy)phenyl]acetyl}piperidin-4-yl)carbamate was prepared from (1-hydroxycyclohexyl)[3-phenoxyphenyl]acetic acid (Reference Example 1-ccc) and 4-N-BOC-aminopiperidine. MS (ESI) m/z 509 ([M+H]+).

reactant | (1-hydroxycyclohexyl)[3-phenoxyphenyl]acetic acid | OC1(CCCCC1)C(C(=O)O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C20H22O4
reactant | 4-N-BOC-aminopiperidine | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
product | tert-butyl (1-{(1-hydroxycyclohexyl)[3-(phenoxy)phenyl]acetyl}piperidin-4-yl)carbamate | OC1(CCCCC1)C(C(=O)N1CCC(CC1)NC(OC(C)(C)C)=O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C30H40N2O5
